US07579488B2
Preparation of 5-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-3-methyl-benzofuran-2-carboxylic acid dimethylamide
5-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-3-methyl-benzofuran-2-carboxylic acid (520 mg, 1.154 mmol), DMAP (422 mg, 3.46 mmol), EDC (332 mg, 1.73 mmol), and dimethyl amine hydrochloride (141 mg, 1.73 mmol) are reacted analogous to Example 1, step I to give the title product (205 mg, 37%).

reactant | 5-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-3-methyl-benzofuran-2-carboxylic acid | 1.154 mmol, 520 mg | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C=1C=CC2=C(C(=C(O2)C(=O)O)C)C1)C)=O)(C)C | C28H34O5
reactant | EDC | 1.73 mmol, 332 mg
reactant | dimethyl amine hydrochloride | 1.73 mmol, 141 mg | Cl.CNC
catalyst | DMAP | 3.46 mmol, 422 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 5-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-3-methyl-benzofuran-2-carboxylic acid dimethylamide | 205 mg, 37% | CN(C(=O)C=1OC2=C(C1C)C=C(C=C2)C(CC)(CC)C2=CC(=C(C=C2)OCC(C(C)(C)C)=O)C)C | C30H39NO4
